US05574162
Mixture of Bis-and Tris-(4-benzoyloxy-2,2,6,6-tetramethyl-piperidin-1-yloxy)octadecane
A mixture of 80 mmol of 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine, 250 mmol of 90% tert-butyl hydroperoxide, 125 grams of octadecane and 5 mmol of molybdenum trioxide is heated ait 140° C. in a Fischer-Porter prerssure bottle till the red color of the N-oxyl compound is no longer visible. The reaction mixture is purified by flash chromatography.

reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | 80 mmol | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | tert-butyl hydroperoxide | 250 mmol | C(C)(C)(C)OO | C4H10O2
reactant | octadecane | 125 grams | CCCCCCCCCCCCCCCCCC | C18H38
catalyst | molybdenum trioxide | 5 mmol | [Mo](=O)(=O)=O
product | Tris-(4-benzoyloxy-2,2,6,6-tetramethyl-piperidin-1-yloxy)octadecane | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC(CCCCCCCCCCCCCCCCC)(ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)(C)C | C66H101N3O9
